US07368453B2
Step 2. Synthesis of cis-2,6-Dimethyl-piperazine-1-carbonitrile Hydrochloride
4-Cyano-cis-3,5-dimethylpiperazine-1-carboxylic acid tert-butyl ester (1.0 g) in 10 mL THF was treated with 4.0 N HCl/dioxane (25 mL), stirred for five hours and concentrated to provide 1.1 g of the title compound. 1H NMR (DMSO-D6, 300 MHz) δ ppm 1.24 (d, 6H, J=6.6 Hz), 2.65 (q, 2H, J=11.1 Hz), 3.27 (d, 2H, J=12.2 Hz), 3.63 (m, 2H); 13C (DMSO, 75 MHz) 16.73 (2C), 46.81 (2C), 50.80 (2C), 104.20.

reactant | 4-Cyano-cis-3,5-dimethylpiperazine-1-carboxylic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(=O)N1C[C@H](N([C@H](C1)C)C#N)C | C12H21N3O2
reactant | HCl dioxane | 4.0 N, 25 mL | Cl.O1CCOCC1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | cis-2,6-Dimethyl-piperazine-1-carbonitrile Hydrochloride | 1.1 g | Cl.C[C@@H]1N([C@@H](CNC1)C)C#N | InChI=1S/C7H13N3.ClH/c1-6-3-9-4-7(2)10(6)5-8;/h6-7,9H,3-4H2,1-2H3;1H/t6-,7+;
